US04025505
The starting material is prepared as follows: The mixture of 0.5 g of N-(4-isocyanato-o-tolyl)-4-chlorophthalimide and 5ml of benzyl alcohol is heated to 120° under nitrogen for 6 hours and evaporated, to yield the N-(4-benzyloxycarbonylamino-o-tolyl)-4-chlorophthalimide.

reactant | N-(4-isocyanato-o-tolyl)-4-chlorophthalimide | 0.5 g | N(=C=O)C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C16H9ClN2O3
reactant | benzyl alcohol | 5ml | C(C1=CC=CC=C1)O | C7H8O
product | N-(4-benzyloxycarbonylamino-o-tolyl)-4-chlorophthalimide | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C23H17ClN2O4
